C1 (net40 net33) C=1.8E-14
C2 (net16 net33) C=7.8E-7
T3 (net37 net5 net5 0) pfet L=7.39E-6 W=5.06E-6
T4 (net28 net14 net14 0) pfet L=4.69E-6 W=1.54E-6
T5 (net3 net1 net1 0) pfet L=7.23E-6 W=9.64E-6
T6 (net25 net15 net15 0) pfet L=2.73E-6 W=2.51E-6
T7 (net16 net23 net23 0) pfet L=9.64E-6 W=2.92E-6
R8 (net21 net28) R=3.5E3
R9 (0 net17) R=2.4E5
T10 (net19 net26 net26 0) nfet L=2.40E-6 W=1.79E-6
T11 (net31 net9 net9 0) pfet L=6.14E-6 W=3.23E-6
T12 (net41 net29 net29 0) pfet L=6.48E-6 W=5.92E-6
C13 (0 net13) C=6.4E-7
T14 (net35 vdd! vdd! 0) pfet L=2.07E-6 W=6.95E-6
R15 (net39 net32) R=2.2E3
C16 (net41 net32) C=0.9E-8
T17 (net5 net20 net20 0) nfet L=6.40E-6 W=9.42E-6
R18 (net15 0) R=6.4E0
T19 (net10 net18 net18 0) pfet L=5.18E-6 W=8.18E-6
C20 (net2 net24) C=5.0E-8
C21 (net5 net15) C=9.2E-14
C22 (net27 net28) C=5.5E-11
C23 (net8 net10) C=8.8E-7
T24 (net25 net20 net20 0) nfet L=4.46E-6 W=0.72E-6
T25 (net20 net20 net20 0) pfet L=3.93E-6 W=2.90E-6
T26 (net31 net10 net10 0) nfet L=1.28E-6 W=7.58E-6
C27 (net27 net5) C=1.0E-11
T28 (net7 net13 net13 0) nfet L=9.52E-6 W=7.84E-6
R29 (net34 net1) R=3.7E6
R30 (net29 net24) R=0.2E1
R31 (vdd! net41) R=6.3E4
T32 (net7 net10 net10 0) pfet L=6.35E-6 W=5.51E-6
R33 (net1 net14) R=5.3E6
T34 (net15 net16 net16 0) nfet L=0.84E-6 W=2.48E-6
T35 (net27 net14 net14 0) pfet L=0.59E-6 W=6.39E-6
R36 (net24 net9) R=6.3E5
T37 (net40 0 0 0) pfet L=9.89E-6 W=7.13E-6
C38 (net37 0) C=6.6E-14
R39 (net17 net43) R=2.0E2
T40 (net19 net3 net3 0) nfet L=8.15E-6 W=5.90E-6
C41 (net13 net42) C=0.5E-10
T42 (vdd! net18 net18 0) nfet L=0.44E-6 W=0.10E-6
T43 (vdd! 0 0 0) nfet L=5.53E-6 W=8.68E-6
T44 (net22 net5 net5 0) pfet L=2.63E-6 W=7.86E-6
T45 (net35 net29 net29 0) nfet L=2.65E-6 W=3.12E-6
T46 (net18 net11 net11 0) nfet L=0.66E-6 W=0.88E-6
C47 (net32 net10) C=4.5E-11
R48 (net20 net22) R=1.6E4
C49 (net21 net16) C=2.6E-8
T50 (net8 vdd! vdd! 0) pfet L=8.46E-6 W=8.68E-6
T51 (net15 0 0 0) nfet L=1.75E-6 W=2.37E-6
R52 (net6 net30) R=3.7E0
R53 (0 net29) R=2.9E3
T54 (net29 net5 net5 0) pfet L=4.79E-6 W=9.23E-6
C55 (vdd! net39) C=6.4E-8
C56 (net1 vdd!) C=9.3E-14
R57 (net31 net41) R=1.3E3
T58 (net35 net19 net19 0) pfet L=8.90E-6 W=1.94E-6
R59 (net7 net43) R=6.3E6
R60 (net15 net33) R=2.5E3
R61 (net24 net20) R=5.6E5
C62 (net3 net14) C=1.3E-9
T63 (net43 net11 net11 0) nfet L=1.54E-6 W=5.04E-6
R64 (net40 net38) R=2.9E5
R65 (net3 net8) R=0.6E0
C66 (net8 net20) C=0.2E-12
C67 (net8 net18) C=1.5E-12
T68 (net31 0 0 0) pfet L=6.07E-6 W=1.82E-6
T69 (net13 net29 net29 0) pfet L=2.60E-6 W=7.70E-6
C70 (net15 net7) C=5.6E-7
R71 (net40 net14) R=6.8E1
T72 (net19 net23 net23 0) nfet L=1.20E-6 W=8.37E-6
T73 (net12 net5 net5 0) nfet L=3.93E-6 W=8.82E-6
T74 (net34 net7 net7 0) pfet L=9.80E-6 W=3.70E-6
R75 (net11 net21) R=6.6E3
R76 (net3 net20) R=7.2E2
T77 (net17 net4 net4 0) pfet L=3.42E-6 W=7.06E-6
R78 (vdd! net34) R=7.2E3
C79 (net31 net8) C=0.4E-12
C80 (net16 net15) C=6.0E-13
R81 (net5 net1) R=4.2E3
R82 (net32 net33) R=4.1E4
T83 (net29 net18 net18 0) nfet L=9.76E-6 W=3.41E-6
R84 (net1 net38) R=0.3E3
T85 (net17 net33 net33 0) pfet L=9.07E-6 W=4.28E-6
R86 (net35 net5) R=4.4E6
T87 (net40 net27 net27 0) nfet L=8.88E-6 W=2.38E-6
C88 (net16 net36) C=3.6E-7
C89 (net33 net27) C=2.3E-14
T90 (net31 net28 net28 0) pfet L=9.61E-6 W=9.46E-6
C91 (net37 net33) C=1.5E-8
T92 (net19 net3 net3 0) nfet L=3.50E-6 W=7.63E-6
R93 (net23 net4) R=6.7E0
R94 (0 net13) R=6.9E2
C95 (net14 0) C=2.4E-9
T96 (net38 net16 net16 0) pfet L=6.97E-6 W=4.35E-6
R97 (net5 net25) R=5.1E6
T98 (net13 net16 net16 0) nfet L=7.24E-6 W=4.27E-6
R99 (net30 net40) R=1.3E0
C100 (net30 net16) C=2.9E-13
R101 (0 net1) R=2.7E4
R102 (net12 net7) R=2.7E6
T103 (net37 net11 net11 0) pfet L=5.45E-6 W=5.25E-6
T104 (net43 net21 net21 0) pfet L=7.47E-6 W=8.74E-6
R105 (net1 vdd!) R=5.3E3
T106 (net34 net21 net21 0) nfet L=4.39E-6 W=4.55E-6
T107 (net38 net5 net5 0) pfet L=2.88E-6 W=5.59E-6
T108 (net25 net24 net24 0) pfet L=2.63E-6 W=1.81E-6
R109 (net10 net30) R=8.9E4
C110 (net11 net41) C=0.8E-8
C111 (vdd! net22) C=5.3E-11
T112 (net12 net12 net12 0) nfet L=2.65E-6 W=8.81E-6
T113 (net32 net20 net20 0) pfet L=7.32E-6 W=8.89E-6
C114 (net35 net32) C=7.2E-13
T115 (net5 net41 net41 0) pfet L=1.80E-6 W=6.58E-6
C116 (net1 net4) C=3.9E-5
T117 (vdd! net26 net26 0) nfet L=8.40E-6 W=4.47E-6
C118 (net24 net35) C=3.1E-5
T119 (net34 net30 net30 0) pfet L=6.43E-6 W=1.87E-6
T120 (0 net24 net24 0) pfet L=7.21E-6 W=2.41E-6
T121 (net41 net39 net39 0) nfet L=9.93E-6 W=6.47E-6
R122 (net1 net8) R=2.9E6
R123 (vdd! net29) R=4.1E5
C124 (net32 net19) C=2.7E-13
R125 (net24 net21) R=1.0E1
C126 (net1 net36) C=5.5E-10
T127 (net29 net14 net14 0) nfet L=4.29E-6 W=6.10E-6
C128 (net10 net36) C=4.7E-6
T129 (net27 vdd! vdd! 0) pfet L=5.76E-6 W=8.99E-6
T130 (net11 net31 net31 0) pfet L=7.54E-6 W=9.45E-6
T131 (net32 net32 net32 0) pfet L=2.83E-6 W=4.20E-6
T132 (net4 net15 net15 0) nfet L=8.20E-6 W=6.68E-6
C133 (net12 net39) C=1.1E-10
T134 (net33 net1 net1 0) pfet L=6.43E-6 W=9.08E-6
C135 (net10 net43) C=0.4E-7
C136 (net34 net22) C=9.1E-13
T137 (net25 net25 net25 0) nfet L=2.01E-6 W=2.48E-6
T138 (net22 net14 net14 0) pfet L=2.90E-6 W=4.64E-6
C139 (net16 net22) C=7.4E-10
T140 (net23 net30 net30 0) pfet L=0.79E-6 W=0.41E-6
R141 (net18 net41) R=6.5E1
T142 (0 net3 net3 0) nfet L=3.35E-6 W=2.83E-6
C143 (net35 net40) C=7.7E-5
R144 (net27 net5) R=1.3E5
C145 (net14 net31) C=2.7E-9
T146 (net24 0 0 0) pfet L=1.00E-6 W=9.36E-6
R147 (net2 net22) R=1.2E2
T148 (net41 net31 net31 0) pfet L=5.30E-6 W=2.97E-6
T149 (vdd! 0 0 0) pfet L=4.31E-6 W=7.29E-6
R150 (net43 net29) R=5.1E4
R151 (0 net36) R=8.5E5
T152 (net41 net35 net35 0) pfet L=0.61E-6 W=5.78E-6
T153 (net41 net18 net18 0) pfet L=4.74E-6 W=8.91E-6
R154 (net22 net30) R=9.3E0
R155 (net21 net39) R=9.4E5
T156 (net38 net16 net16 0) pfet L=1.54E-6 W=6.67E-6
R157 (net38 net9) R=1.9E0
T158 (net14 net30 net30 0) pfet L=5.39E-6 W=9.19E-6
T159 (net2 net28 net28 0) nfet L=9.92E-6 W=8.34E-6
R160 (net14 net21) R=2.4E4
T161 (net22 net12 net12 0) nfet L=7.39E-6 W=2.86E-6
C162 (net29 net30) C=8.4E-13
T163 (0 net21 net21 0) nfet L=0.47E-6 W=6.66E-6
T164 (net28 net1 net1 0) pfet L=3.70E-6 W=0.72E-6
C165 (net21 0) C=8.5E-14

