C1 (net11 net30) C=7.6E-6
T2 (net21 net28 net28 0) pfet L=9.91E-6 W=8.04E-6
R3 (net4 net31) R=1.7E0
T4 (net38 net15 net15 0) pfet L=0.67E-6 W=6.07E-6
T5 (net29 net37 net37 0) nfet L=3.08E-6 W=6.71E-6
T6 (net47 net18 net18 0) pfet L=9.31E-6 W=3.81E-6
R7 (net3 net11) R=2.5E4
R8 (0 net3) R=8.3E5
R9 (net30 net26) R=2.7E3
C10 (net31 net8) C=9.4E-14
T11 (net14 net32 net32 0) pfet L=1.25E-6 W=9.42E-6
C12 (net26 net20) C=9.1E-8
R13 (net4 net43) R=6.2E3
R14 (net34 net30) R=8.9E4
C15 (net13 0) C=4.7E-14
T16 (net3 net2 net2 0) nfet L=5.39E-6 W=1.87E-6
R17 (net42 net29) R=6.2E1
R18 (net1 net5) R=1.1E3
T19 (net39 net40 net40 0) pfet L=0.75E-6 W=1.52E-6
C20 (net20 net43) C=1.1E-7
T21 (vdd! net34 net34 0) pfet L=3.43E-6 W=1.86E-6
R22 (net26 net9) R=8.6E2
T23 (net35 net34 net34 0) pfet L=7.34E-6 W=5.44E-6
C24 (net43 net12) C=5.9E-9
T25 (0 net30 net30 0) pfet L=3.97E-6 W=1.28E-6
R26 (net7 net30) R=2.6E4
T27 (net20 net46 net46 0) nfet L=9.75E-6 W=6.44E-6
C28 (net35 net22) C=9.4E-6
T29 (net27 net6 net6 0) nfet L=7.47E-6 W=2.89E-6
T30 (net6 net12 net12 0) nfet L=8.51E-6 W=7.26E-6
R31 (net18 net36) R=5.6E4
R32 (net34 net40) R=7.1E0
R33 (net34 net3) R=8.8E1
T34 (net27 0 0 0) nfet L=9.19E-6 W=1.19E-6
R35 (net47 net10) R=9.7E4
R36 (net47 net23) R=9.6E6
R37 (net5 net18) R=7.0E0
R38 (net23 net18) R=0.6E0
R39 (net38 net24) R=0.2E5
C40 (net21 net43) C=2.4E-5
T41 (net15 net22 net22 0) pfet L=6.44E-6 W=1.23E-6
R42 (net5 net37) R=0.6E2
C43 (net21 net3) C=6.4E-11
R44 (net9 net11) R=0.9E3
T45 (net14 net6 net6 0) nfet L=0.79E-6 W=5.68E-6
T46 (net4 net25 net25 0) nfet L=4.26E-6 W=7.02E-6
R47 (net39 0) R=1.0E2
T48 (net32 net26 net26 0) pfet L=3.61E-6 W=1.49E-6
C49 (net8 net22) C=7.3E-7
T50 (net3 net13 net13 0) nfet L=8.42E-6 W=1.33E-6
T51 (net43 net37 net37 0) pfet L=5.44E-6 W=8.83E-6
T52 (vdd! 0 0 0) nfet L=2.43E-6 W=1.67E-6
T53 (net4 net44 net44 0) nfet L=9.33E-6 W=9.81E-6
R54 (net22 vdd!) R=3.6E5
T55 (net12 net18 net18 0) pfet L=4.83E-6 W=0.91E-6
R56 (net10 net46) R=9.2E1
T57 (net11 net12 net12 0) nfet L=9.41E-6 W=5.31E-6
R58 (net39 net19) R=5.5E2

