R1 (net70 net40) R=1.4E6
T2 (net76 net23 net23 0) pfet L=9.22E-6 W=3.30E-6
R3 (net62 0) R=6.7E3
R4 (net74 net35) R=9.3E6
R5 (net52 net50) R=4.0E0
T6 (net35 vdd! vdd! 0) pfet L=9.83E-6 W=8.77E-6
C7 (net78 net54) C=4.0E-11
T8 (0 net56 net56 0) pfet L=8.13E-6 W=4.53E-6
T9 (net45 net46 net46 0) nfet L=1.92E-6 W=0.76E-6
C10 (net67 net15) C=3.9E-11
T11 (net68 net24 net24 0) pfet L=8.76E-6 W=5.99E-6
T12 (net50 net32 net32 0) nfet L=1.82E-6 W=1.45E-6
C13 (net9 net54) C=6.6E-9
T14 (net19 net64 net64 0) pfet L=1.21E-6 W=6.81E-6
R15 (net73 net31) R=3.9E0
C16 (net2 net79) C=9.2E-12
C17 (net42 net37) C=2.3E-9
R18 (0 net27) R=5.6E6
R19 (net13 net44) R=1.9E3
R20 (vdd! net18) R=6.8E3
T21 (net61 net14 net14 0) pfet L=6.82E-6 W=3.55E-6
T22 (net63 0 0 0) nfet L=6.88E-6 W=4.90E-6
R23 (0 net29) R=4.2E4
T24 (net29 net63 net63 0) nfet L=5.82E-6 W=7.26E-6
R25 (net24 vdd!) R=4.1E1
C26 (net17 net77) C=1.0E-11
C27 (net3 net76) C=8.8E-7
T28 (0 net36 net36 0) nfet L=6.94E-6 W=3.09E-6
C29 (net45 net78) C=1.7E-14
C30 (0 net23) C=6.5E-12
C31 (net1 net66) C=7.1E-9
R32 (net54 net37) R=3.1E4
C33 (net45 net40) C=8.9E-12
T34 (net73 net48 net48 0) pfet L=6.64E-6 W=6.36E-6
R35 (net45 net55) R=9.4E1
T36 (vdd! net43 net43 0) pfet L=0.35E-6 W=8.05E-6
R37 (net77 net7) R=1.8E5
T38 (net47 net13 net13 0) pfet L=3.22E-6 W=2.03E-6
C39 (net38 net54) C=5.1E-7
R40 (net4 net30) R=3.2E3
R41 (net58 net31) R=2.1E2
C42 (net16 net50) C=7.4E-12
T43 (net3 net69 net69 0) pfet L=9.23E-6 W=9.75E-6
C44 (net62 net71) C=10.0E-9
T45 (net22 net21 net21 0) nfet L=6.14E-6 W=6.74E-6
C46 (net57 net17) C=6.8E-13
T47 (0 net77 net77 0) pfet L=1.20E-6 W=8.07E-6
T48 (net30 net57 net57 0) pfet L=2.97E-6 W=9.13E-6
R49 (net15 net43) R=7.4E3
R50 (net64 net37) R=3.8E2
T51 (net27 net30 net30 0) nfet L=1.91E-6 W=1.23E-6
T52 (net67 net34 net34 0) nfet L=7.89E-6 W=3.93E-6
T53 (net69 net35 net35 0) pfet L=5.16E-6 W=7.26E-6
T54 (vdd! net33 net33 0) nfet L=3.38E-6 W=7.47E-6
R55 (0 net11) R=5.3E0
T56 (net55 net40 net40 0) pfet L=0.78E-6 W=3.32E-6
C57 (net12 net63) C=6.4E-6
R58 (net36 net12) R=5.5E1
C59 (net73 net47) C=7.6E-5
R60 (net77 0) R=0.6E2
C61 (net48 net32) C=2.8E-14
R62 (net70 net63) R=8.4E0
T63 (net35 net61 net61 0) nfet L=6.70E-6 W=3.50E-6
R64 (net54 net57) R=1.2E5
T65 (net68 net6 net6 0) nfet L=9.30E-6 W=9.77E-6
R66 (net33 net52) R=5.9E0
C67 (net72 net9) C=7.7E-12
T68 (net58 net53 net53 0) pfet L=0.68E-6 W=2.74E-6
R69 (net56 net39) R=5.7E3
C70 (vdd! net16) C=4.2E-7
T71 (net52 net70 net70 0) nfet L=0.29E-6 W=9.06E-6
T72 (net65 net66 net66 0) nfet L=1.62E-6 W=3.19E-6
C73 (net73 net53) C=8.7E-12
T74 (0 net21 net21 0) pfet L=9.65E-6 W=7.45E-6
R75 (net22 net35) R=6.4E2
T76 (net13 net76 net76 0) pfet L=8.20E-6 W=2.61E-6
T77 (net65 net11 net11 0) pfet L=3.45E-6 W=0.88E-6
R78 (net25 net13) R=7.8E0
T79 (net76 net42 net42 0) pfet L=7.97E-6 W=1.54E-6
R80 (0 net21) R=6.6E4
T81 (net31 net40 net40 0) pfet L=4.48E-6 W=5.77E-6
C82 (net72 net22) C=4.5E-14
C83 (net30 net60) C=1.6E-13
T84 (net1 net53 net53 0) nfet L=3.20E-6 W=7.41E-6
T85 (net2 net14 net14 0) nfet L=0.86E-6 W=5.52E-6
T86 (net52 net8 net8 0) nfet L=1.77E-6 W=1.02E-6
T87 (net72 net39 net39 0) nfet L=2.77E-6 W=8.51E-6
T88 (net69 net20 net20 0) pfet L=6.65E-6 W=2.64E-6
T89 (net56 net38 net38 0) pfet L=2.32E-6 W=2.39E-6
T90 (net30 net43 net43 0) pfet L=0.92E-6 W=5.94E-6
R91 (net46 net62) R=3.4E2
T92 (0 net31 net31 0) nfet L=2.85E-6 W=3.03E-6
T93 (net38 net52 net52 0) pfet L=9.54E-6 W=9.75E-6
T94 (vdd! vdd! vdd! 0) pfet L=4.54E-6 W=0.76E-6
T95 (net11 net58 net58 0) nfet L=3.69E-6 W=8.45E-6
R96 (0 net25) R=8.5E4
C97 (net31 net19) C=1.4E-10
T98 (net75 net67 net67 0) nfet L=0.80E-6 W=6.97E-6
R99 (net52 net4) R=4.8E1
C100 (net33 net32) C=4.9E-12
R101 (net74 net25) R=6.5E5
T102 (net63 net8 net8 0) nfet L=5.85E-6 W=8.10E-6
R103 (net67 net11) R=3.7E5
R104 (net64 net49) R=5.3E4
C105 (net25 0) C=5.4E-8
R106 (net55 net18) R=8.9E2
C107 (vdd! net60) C=0.2E-5
T108 (net29 net60 net60 0) pfet L=7.18E-6 W=7.32E-6
C109 (net32 net75) C=1.9E-14
T110 (net78 net35 net35 0) nfet L=0.13E-6 W=4.69E-6
C111 (net20 net21) C=8.3E-10
C112 (net21 net17) C=1.5E-9
T113 (net54 net63 net63 0) nfet L=2.04E-6 W=1.67E-6
R114 (net69 net2) R=8.2E4
T115 (net73 0 0 0) nfet L=5.92E-6 W=2.95E-6
C116 (net56 vdd!) C=8.6E-12
C117 (net4 net5) C=0.1E-10
C118 (net47 net48) C=7.0E-8
T119 (net37 net11 net11 0) pfet L=4.00E-6 W=7.04E-6
C120 (net58 net30) C=4.0E-6
C121 (net77 net26) C=5.7E-7
T122 (net58 net7 net7 0) pfet L=8.39E-6 W=5.11E-6
R123 (net55 net39) R=8.8E6
C124 (net28 net22) C=1.2E-7
C125 (net12 net74) C=6.0E-13
T126 (net75 net37 net37 0) pfet L=9.54E-6 W=0.28E-6
R127 (net1 net17) R=9.7E4
T128 (net13 vdd! vdd! 0) pfet L=3.35E-6 W=6.16E-6
T129 (net55 net19 net19 0) pfet L=5.76E-6 W=5.29E-6
T130 (net67 net48 net48 0) pfet L=4.02E-6 W=7.69E-6
T131 (net11 net49 net49 0) nfet L=0.94E-6 W=5.34E-6
C132 (net36 net1) C=1.2E-7
R133 (net76 net38) R=7.6E6
R134 (net48 net70) R=0.9E0
T135 (net4 net61 net61 0) nfet L=8.19E-6 W=9.68E-6
C136 (net44 net3) C=7.3E-9
T137 (net34 net14 net14 0) pfet L=3.50E-6 W=5.04E-6
C138 (net46 vdd!) C=7.5E-10
C139 (net1 net58) C=4.0E-14
T140 (net50 net29 net29 0) nfet L=6.50E-6 W=6.66E-6
T141 (net5 net48 net48 0) pfet L=7.61E-6 W=3.08E-6
T142 (net79 net9 net9 0) nfet L=0.25E-6 W=7.19E-6
T143 (net66 net42 net42 0) nfet L=6.80E-6 W=8.83E-6
T144 (net56 net22 net22 0) nfet L=0.53E-6 W=7.83E-6

