R1 (net1 net6) R=5.6E5
C2 (net4 net7) C=5.8E-13
C3 (net1 net6) C=9.0E-12
T4 (net2 net4 net4 0) nfet L=9.48E-6 W=5.96E-6
C5 (net8 net4) C=9.3E-13
T6 (net5 vdd! vdd! 0) pfet L=5.38E-6 W=9.42E-6
C7 (net9 net2) C=9.0E-10
C8 (net5 net6) C=9.9E-8
R9 (net8 net7) R=5.8E0
C10 (net6 net2) C=3.1E-10
C11 (net5 net1) C=2.0E-12
C12 (0 net2) C=7.4E-8
T13 (net9 net6 net6 0) nfet L=9.19E-6 W=5.58E-6
R14 (net9 net4) R=2.9E4
T15 (net2 net5 net5 0) nfet L=9.53E-6 W=2.80E-6
R16 (0 net2) R=9.1E1
T17 (net5 net3 net3 0) nfet L=5.65E-6 W=8.88E-6
R18 (net8 vdd!) R=4.3E3
T19 (net4 net7 net7 0) pfet L=2.11E-6 W=2.68E-6
C20 (net8 net2) C=5.1E-13
C21 (net8 net7) C=4.8E-14
T22 (net3 0 0 0) nfet L=2.05E-6 W=1.49E-6
T23 (net1 net6 net6 0) pfet L=8.78E-6 W=9.36E-6
T24 (0 net3 net3 0) pfet L=6.85E-6 W=6.93E-6
T25 (net7 net3 net3 0) pfet L=2.86E-6 W=2.13E-6
T26 (vdd! net2 net2 0) nfet L=0.22E-6 W=9.88E-6
T27 (net7 vdd! vdd! 0) nfet L=4.29E-6 W=2.36E-6
R28 (net4 0) R=6.9E4
C29 (net6 net1) C=6.0E-9
R30 (net9 net1) R=3.6E2
C31 (net8 net3) C=5.2E-11

