T1 (net3 net8 net8 0) nfet L=4.33E-6 W=9.56E-6
T2 (net31 net21 net21 0) nfet L=1.33E-6 W=6.82E-6
R3 (net5 net35) R=9.5E2
T4 (net5 net32 net32 0) nfet L=2.98E-6 W=7.66E-6
T5 (net15 net39 net39 0) pfet L=3.36E-6 W=0.16E-6
C6 (net7 net20) C=0.7E-12
R7 (net22 net5) R=1.8E3
T8 (net9 net23 net23 0) nfet L=1.70E-6 W=4.07E-6
R9 (net13 net1) R=9.0E3
C10 (net21 net22) C=7.6E-9
R11 (net3 net4) R=3.6E0
T12 (net1 net28 net28 0) nfet L=1.80E-6 W=9.53E-6
T13 (net1 net28 net28 0) nfet L=5.20E-6 W=6.99E-6
C14 (net13 net38) C=0.8E-12
R15 (net29 net20) R=4.2E4
T16 (net29 net27 net27 0) nfet L=8.71E-6 W=8.24E-6
R17 (net20 net26) R=3.4E4
C18 (0 net5) C=3.4E-8
T19 (net37 net27 net27 0) nfet L=5.48E-6 W=1.75E-6
R20 (net29 net4) R=3.1E5
T21 (vdd! net23 net23 0) nfet L=4.82E-6 W=5.12E-6
T22 (net36 net37 net37 0) pfet L=2.49E-6 W=4.05E-6
R23 (net20 net13) R=9.5E6
T24 (net27 net21 net21 0) pfet L=1.85E-6 W=8.23E-6
R25 (net11 net25) R=1.7E3
T26 (net20 net11 net11 0) nfet L=7.82E-6 W=2.74E-6
C27 (net39 net29) C=7.8E-9
T28 (net9 net37 net37 0) pfet L=6.88E-6 W=0.33E-6
T29 (net10 net15 net15 0) nfet L=5.73E-6 W=6.88E-6
T30 (net23 net35 net35 0) pfet L=1.33E-6 W=8.76E-6
T31 (net18 net24 net24 0) pfet L=5.14E-6 W=5.92E-6
T32 (net1 net34 net34 0) pfet L=8.36E-6 W=0.85E-6
T33 (net16 net33 net33 0) pfet L=9.54E-6 W=3.39E-6
C34 (net11 net35) C=9.1E-11
R35 (net38 net32) R=2.7E2
R36 (net5 net13) R=1.0E6
C37 (net25 net26) C=0.1E-10
T38 (net25 net15 net15 0) nfet L=4.57E-6 W=9.67E-6
T39 (net39 net14 net14 0) pfet L=6.45E-6 W=5.19E-6
T40 (net5 net26 net26 0) pfet L=3.41E-6 W=5.37E-6
R41 (net16 net38) R=7.8E6
T42 (net36 net38 net38 0) nfet L=4.75E-6 W=1.21E-6
T43 (0 net11 net11 0) nfet L=9.44E-6 W=1.38E-6
T44 (net11 net22 net22 0) nfet L=3.60E-6 W=1.25E-6
R45 (vdd! net1) R=3.4E5
T46 (0 net28 net28 0) nfet L=2.89E-6 W=2.40E-6
T47 (net1 vdd! vdd! 0) pfet L=6.27E-6 W=6.86E-6
C48 (net35 net30) C=5.8E-7
T49 (net20 net11 net11 0) pfet L=5.91E-6 W=6.52E-6
T50 (net16 net37 net37 0) nfet L=7.47E-6 W=8.46E-6
T51 (net39 net3 net3 0) nfet L=1.19E-6 W=5.77E-6
C52 (net5 net3) C=1.3E-7
C53 (net3 net12) C=0.3E-6
T54 (net23 net15 net15 0) pfet L=2.32E-6 W=4.14E-6
T55 (net37 net32 net32 0) pfet L=4.30E-6 W=9.84E-6
T56 (net33 net22 net22 0) pfet L=6.54E-6 W=4.90E-6
T57 (0 net30 net30 0) nfet L=9.42E-6 W=2.77E-6
C58 (net27 net35) C=6.1E-14
T59 (net5 net26 net26 0) pfet L=1.49E-6 W=9.29E-6
C60 (net17 net15) C=8.2E-11
C61 (net34 net21) C=4.7E-9
T62 (vdd! net18 net18 0) pfet L=0.26E-6 W=9.39E-6
R63 (net21 net15) R=6.2E3
C64 (net34 net16) C=1.8E-13
T65 (net7 net26 net26 0) pfet L=4.73E-6 W=9.70E-6
T66 (net29 net28 net28 0) nfet L=3.79E-6 W=3.91E-6
T67 (net17 net7 net7 0) pfet L=3.44E-6 W=4.89E-6
T68 (net26 net20 net20 0) pfet L=9.52E-6 W=3.18E-6
C69 (net23 net5) C=5.0E-11
R70 (net25 net27) R=0.8E2
T71 (0 net11 net11 0) nfet L=7.63E-6 W=9.69E-6
T72 (net9 net31 net31 0) pfet L=2.26E-6 W=1.17E-6
R73 (net33 net5) R=8.1E3
R74 (net37 net39) R=0.9E6
T75 (net4 net3 net3 0) nfet L=2.71E-6 W=4.20E-6
T76 (net14 net9 net9 0) pfet L=3.31E-6 W=5.62E-6
T77 (net32 net11 net11 0) pfet L=9.60E-6 W=5.72E-6
T78 (0 net37 net37 0) pfet L=4.53E-6 W=8.07E-6
T79 (vdd! vdd! vdd! 0) nfet L=0.18E-6 W=7.27E-6
T80 (net1 net13 net13 0) nfet L=7.83E-6 W=7.23E-6
C81 (net25 net33) C=9.9E-10
T82 (net39 net1 net1 0) nfet L=4.48E-6 W=0.11E-6
T83 (net9 net9 net9 0) nfet L=7.61E-6 W=1.78E-6
C84 (net32 net16) C=3.3E-10
C85 (net11 net7) C=5.8E-11
T86 (net3 net36 net36 0) nfet L=2.88E-6 W=8.81E-6
C87 (0 net5) C=9.4E-7
C88 (net23 net31) C=3.3E-5
C89 (net32 net3) C=9.1E-7
T90 (net37 net33 net33 0) nfet L=9.58E-6 W=1.53E-6
R91 (net8 net13) R=5.5E6
T92 (net10 net22 net22 0) nfet L=3.67E-6 W=4.86E-6
T93 (net2 net27 net27 0) nfet L=4.29E-6 W=9.29E-6
C94 (net11 net22) C=5.2E-13
C95 (net22 net33) C=2.1E-9
T96 (net36 0 0 0) nfet L=3.80E-6 W=5.19E-6
T97 (0 net34 net34 0) pfet L=0.35E-6 W=8.50E-6
T98 (net32 net26 net26 0) nfet L=3.03E-6 W=5.03E-6
R99 (net27 net3) R=0.6E1
C100 (net2 net31) C=4.6E-7
T101 (net3 net24 net24 0) nfet L=7.26E-6 W=0.32E-6
T102 (net15 net30 net30 0) nfet L=2.37E-6 W=9.41E-6
C103 (net4 net16) C=1.7E-5
R104 (net5 0) R=6.5E2
T105 (net27 net34 net34 0) pfet L=3.73E-6 W=0.87E-6
R106 (net14 net1) R=3.2E5
T107 (net4 net2 net2 0) nfet L=5.76E-6 W=3.42E-6
T108 (net23 0 0 0) pfet L=7.08E-6 W=2.75E-6
C109 (net30 net8) C=8.6E-12
C110 (net3 net17) C=8.0E-14
T111 (0 net21 net21 0) nfet L=7.39E-6 W=1.33E-6
C112 (net31 net14) C=7.6E-10
T113 (net12 net39 net39 0) nfet L=8.35E-6 W=2.20E-6
R114 (net1 net27) R=7.5E1
C115 (net19 net39) C=8.2E-9
T116 (net9 net15 net15 0) pfet L=3.87E-6 W=9.34E-6
T117 (net7 net26 net26 0) nfet L=5.40E-6 W=4.02E-6
T118 (net30 net30 net30 0) nfet L=5.79E-6 W=7.56E-6
R119 (net36 net10) R=3.6E2
C120 (0 net24) C=5.8E-5
T121 (net28 net4 net4 0) nfet L=8.43E-6 W=1.44E-6
C122 (net16 net21) C=6.0E-13
T123 (net8 net32 net32 0) nfet L=3.87E-6 W=2.93E-6
T124 (vdd! net14 net14 0) pfet L=5.39E-6 W=6.27E-6
T125 (net24 net16 net16 0) pfet L=9.40E-6 W=0.20E-6
T126 (net38 net11 net11 0) nfet L=7.71E-6 W=1.57E-6
T127 (net10 vdd! vdd! 0) pfet L=9.73E-6 W=3.94E-6
R128 (net38 net24) R=8.2E5
R129 (net30 net38) R=7.3E0
T130 (vdd! net12 net12 0) nfet L=7.91E-6 W=6.40E-6
R131 (net29 net34) R=1.0E4
C132 (net22 net35) C=1.8E-10
T133 (net7 net33 net33 0) pfet L=4.48E-6 W=1.79E-6
T134 (net21 net4 net4 0) pfet L=0.81E-6 W=0.53E-6
R135 (net10 net30) R=4.5E5
T136 (net3 net22 net22 0) nfet L=8.81E-6 W=5.02E-6

