T1 (net3 net1 net1 0) pfet L=9.15E-6 W=0.34E-6
C2 (net2 net3) C=8.3E-5
C3 (net3 0) C=7.6E-11
T4 (vdd! net5 net5 0) nfet L=8.96E-6 W=8.17E-6
C5 (net1 vdd!) C=6.5E-6
T6 (net2 net3 net3 0) nfet L=6.51E-6 W=2.63E-6
T7 (net5 net1 net1 0) nfet L=1.12E-6 W=5.94E-6
T8 (net5 net4 net4 0) pfet L=9.45E-6 W=7.68E-6
C9 (net3 net2) C=3.4E-8
T10 (net3 net1 net1 0) nfet L=9.67E-6 W=7.75E-6
R11 (net5 net4) R=5.0E4

