T1 (net9 net5 net5 0) nfet L=8.86E-6 W=7.21E-6
T2 (net6 net7 net7 0) nfet L=9.00E-6 W=8.48E-6
C3 (net6 net12) C=0.4E-10
T4 (net4 net11 net11 0) pfet L=8.02E-6 W=2.88E-6
T5 (net3 0 0 0) pfet L=7.53E-6 W=5.97E-6
R6 (net4 net8) R=3.7E1
T7 (net7 net9 net9 0) nfet L=5.00E-6 W=0.98E-6
T8 (net1 vdd! vdd! 0) nfet L=9.00E-6 W=9.74E-6
T9 (vdd! 0 0 0) nfet L=5.94E-6 W=8.00E-6
R10 (net10 net11) R=8.8E4
C11 (vdd! net4) C=4.4E-7
T12 (net1 net8 net8 0) nfet L=8.58E-6 W=9.53E-6
T13 (net9 net8 net8 0) nfet L=9.99E-6 W=9.72E-6
C14 (net4 net2) C=5.0E-14
T15 (net5 net10 net10 0) pfet L=8.89E-6 W=5.49E-6
T16 (net1 net9 net9 0) pfet L=8.08E-6 W=7.40E-6
R17 (net4 net7) R=7.0E6
T18 (net11 net2 net2 0) pfet L=2.48E-6 W=5.53E-6
C19 (net1 net4) C=8.0E-6
T20 (net2 net5 net5 0) nfet L=2.43E-6 W=0.17E-6
T21 (net12 net5 net5 0) pfet L=0.70E-6 W=3.58E-6
C22 (net4 net6) C=0.9E-6
T23 (0 net9 net9 0) nfet L=7.21E-6 W=0.68E-6
T24 (0 net4 net4 0) pfet L=1.70E-6 W=5.42E-6
C25 (net3 net8) C=6.7E-7
C26 (net1 net12) C=6.4E-5
T27 (net2 net2 net2 0) nfet L=4.52E-6 W=6.89E-6
T28 (net6 0 0 0) nfet L=7.01E-6 W=3.76E-6
C29 (net10 net2) C=0.5E-9
R30 (net9 net12) R=3.5E5
R31 (vdd! net5) R=1.1E1
R32 (net7 net4) R=7.3E4
C33 (net9 net4) C=5.7E-10
T34 (0 net9 net9 0) nfet L=8.54E-6 W=9.28E-6
T35 (net2 0 0 0) pfet L=3.75E-6 W=0.28E-6
T36 (net8 net2 net2 0) nfet L=3.71E-6 W=4.85E-6
C37 (net9 net4) C=3.5E-12
T38 (net4 net7 net7 0) nfet L=7.01E-6 W=7.19E-6
R39 (net11 net1) R=0.7E3
R40 (net5 net6) R=2.4E3
C41 (net6 0) C=5.9E-13
T42 (vdd! net11 net11 0) nfet L=2.59E-6 W=7.76E-6
T43 (net4 net6 net6 0) pfet L=4.68E-6 W=1.52E-6
T44 (net9 net12 net12 0) nfet L=1.99E-6 W=6.79E-6
T45 (net11 net10 net10 0) nfet L=7.84E-6 W=3.25E-6
T46 (net6 net12 net12 0) nfet L=6.46E-6 W=8.78E-6
C47 (net8 net1) C=3.6E-8
R48 (net12 vdd!) R=1.8E5
R49 (net8 net10) R=6.4E2
T50 (net2 net4 net4 0) nfet L=4.45E-6 W=3.35E-6
T51 (net2 net12 net12 0) nfet L=3.22E-6 W=0.74E-6
R52 (net3 net11) R=6.4E0
C53 (net8 net2) C=3.7E-12
T54 (net6 net12 net12 0) pfet L=6.83E-6 W=7.11E-6
R55 (net7 net9) R=4.1E3
T56 (net6 net8 net8 0) pfet L=3.37E-6 W=9.28E-6
R57 (net5 net4) R=1.9E4
R58 (net2 net12) R=8.5E5
T59 (net3 net2 net2 0) pfet L=2.04E-6 W=7.64E-6
T60 (net5 net11 net11 0) pfet L=9.54E-6 W=7.22E-6
R61 (net1 net3) R=5.6E2
C62 (net11 net3) C=2.8E-8
C63 (net1 net5) C=0.4E-9
T64 (net2 vdd! vdd! 0) pfet L=2.45E-6 W=8.95E-6
R65 (net1 net7) R=9.1E2
T66 (net6 net4 net4 0) nfet L=8.30E-6 W=0.88E-6
T67 (net11 net9 net9 0) nfet L=2.32E-6 W=8.52E-6

